* Ring variant: DIODE-CONNECTED pMOS loads instead of poly resistors, to see
* whether the tuning range widens.
*
* Why this might work.  With a poly-resistor load the stage delay is RC and
* does not care what the tail current is, which is why the resistive ring
* tunes over only 1.3:1 and cannot cover PVT.  A diode load's small-signal
* resistance is 1/gm, and gm follows the tail current, so the delay falls as
* the current rises.  It also needs no control pin, unlike a switchable
* resistor bank.
*
* Why the first attempt failed.  A five-stage ring needs a stage gain of at
* least 1/cos(36 deg) = 1.24 to sustain oscillation, and for a CML pair with a
* diode load that gain is roughly
*
*     sqrt( mu_n * (W/L)_n  /  ( mu_p * (W/L)_p ) )
*
* A 2 um / 0.13 um pMOS load against a 3 um / 0.6 um input pair gives about 1,
* and the ring sat still.  The load has to be *weaker*, which means a longer
* channel, not a narrower one -- a narrow short-channel device is still a
* strong load.  Lpl = 0.5 um here, giving a stage gain around 1.8-2.
*
* Not yet run.  Recorded as the next experiment, with the arithmetic that
* says what to try, so nobody repeats the first attempt.
*
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi
.endc

.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib  res_typ
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib  cap_typ

.include ../netlists/blocks.inc
.include ring_pm.inc

.global sub!
Vsub sub! 0 0

VDD VDD 0 1.2
VSS VSS 0 0
Vc  vctrl 0 0.6

x1 VDD VSS vctrl vop vom ring_pm

* Break the ring's symmetry so it starts.
.ic v(vop)=1.0 v(vom)=0.4

.options method=gear reltol=1e-4 abstol=1e-12 vntol=1e-6

.control
* Only these two vectors are stored.  A bare `write` would keep every node at
* every timepoint and has previously exhausted this machine's memory.
save v(vop) v(vom) v(vctrl)
* Second attempt.  The first used Lpl = 0.13 um and did not oscillate: for a
* CML pair with a diode load the stage gain is about
*     sqrt( mu_n (W/L)_n / ( mu_p (W/L)_p ) )
* and a short-channel pMOS is a *strong* load however narrow it is, which put
* the gain near 1 against the 1.24 a five-stage ring needs.  The load has to be
* weakened by making it longer, not narrower.  Lpl is swept from 0.5 to 2 um.
foreach lpl 0.5 1.0 2.0
 foreach wp 1.5 3.0
  alterparam Win   = 3
  alterparam Lin   = 0.9
  alterparam Wtail = 9
  alterparam Wpl   = $wp
  alterparam Lpl   = $lpl
  reset
  foreach vc 0.40 0.50 0.60 0.70 0.80 0.90 1.00 1.10
   alter Vc dc = $vc
  * 120 ns is ~70 cycles at 600 MHz; the first 40 ns is discarded as startup.
  tran 5p 120n
   let p_lpl   = $lpl
   let p_rload = $wp
   let p_vctrl = $vc
  * Count rising crossings of the midpoint in the settled window and divide by
  * the elapsed time, rather than trusting a single period: a ring that is
  * still building amplitude gives a period that drifts, and one `meas trig/targ`
  * on an early edge reports that drift as the frequency.
  meas tran t1 when v(vop)=v(vom) rise=6
  meas tran t2 when v(vop)=v(vom) rise=26
  let fosc = 20 / (t2 - t1)
  meas tran vmax max v(vop) from=60n to=120n
  meas tran vmin min v(vop) from=60n to=120n
   let swing = vmax - vmin
  print p_lpl p_rload p_vctrl fosc swing
  end
 end
end
quit
.endc
.end
